US08426447B2
A 2-5 ml microwave vial was charged with (S)-2-amino-2′-bromo-5H-spiro[oxazole-4,9′-xanthen]-7′-ol (300 mg, 0.864 mmol) (104780-26-0), Pd2dba3 (39.6 mg, 0.043 mmol), 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (40.8 mg, 0.104 mmol) and 2,2-dimethylmorpholine (299 mg, 2.59 mmol). The mixture was capped with argon and LiHMDS (1M in THF) (4321 μL, 4.32 mmol) was added and the vial was sealed and heated at 110° C. in microwave reactor for 1 hr. The reaction mixture was quenched by addition of 2 ml water and EtOAc, then saturated NH4Cl was added. The organic layer was filtered through Celite, concentrated in vacuo and purified on a 40 g RediSep column using 15-80% DCM/MeOH/NH4OH in DCM to afford (R)-2-amino-2′-(2,2-dimethylmorpholino)-5H-spiro[oxazole-4,9′-xanthen]-7′-ol.

reactant | (S)-2-amino-2′-bromo-5H-spiro[oxazole-4,9′-xanthen]-7′-ol | 0.864 mmol, 300 mg | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)Br)O)N1 | C15H11BrN2O3
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.104 mmol, 40.8 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
reactant | 2,2-dimethylmorpholine | 2.59 mmol, 299 mg | CC1(CNCCO1)C | C6H13NO
reactant | LiHMDS | 4.32 mmol, 1M, 4321 μL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
catalyst | Pd2dba3 | 0.043 mmol, 39.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-2-amino-2′-(2,2-dimethylmorpholino)-5H-spiro[oxazole-4,9′-xanthen]-7′-ol | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)N2CC(OCC2)(C)C)O)N1 | C21H23N3O4
